US07166598B2
Potassium carbonate (1.70 g) was added by small portions with ice-cooling to a mixture of 3-methoxy-4-methyl-D-phenylalanine methyl ester hydrochloride (1.60 g) in mixed solvents of dichloromethane (7 ml) and water (9 ml). Chloroacetyl chloride (0.66 ml) was added to the mixture below 5° C. over 15 minutes and then the whole was stirred for 30 minutes. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure to give an oil of (2R)-2-[N-(chloroacetyl)-amino]-3-(3-methoxy-4-methylphenyl)propionic acid methyl ester.

reactant | Potassium carbonate | 1.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methoxy-4-methyl-D-phenylalanine methyl ester hydrochloride | 1.60 g | Cl.COC([C@H](N)CC1=CC(=C(C=C1)C)OC)=O
reactant | dichloromethane | 7 ml | ClCCl | CH2Cl2
reactant | Chloroacetyl chloride | 0.66 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | water | 9 ml | O | H2O
product | (2R)-2-[N-(chloroacetyl)-amino]-3-(3-methoxy-4-methylphenyl)propionic acid methyl ester | COC([C@@H](CC1=CC(=C(C=C1)C)OC)NC(CCl)=O)=O | C14H18ClNO4
